US09255090B2
Method B: Synthesis of [3-Bromo-4-(2,2-difluoro-ethoxy)-phenyl]acetic acid ethyl ester (C12H13O3BrF2, MW=322.00):
Sodium hydride 60% dispersion in mineral oil (80 mg, 2.0 mmol, 1.0 eq.) was added portionwise to an ice-cooled solution of (3-bromo-4-hydroxy-phenyl)-acetic acid ethyl ester (564 mg, 2.0 mmol, 1.0 eq.) in THF (9.4 mL). The ice bath was removed and the mixture was allowed to warm to r.t. and stirred for 30 min. A solution of 2,2-difluoroethyl trifluoromethanesulfonate (961 mg, 4.4 mmol, 2.2 eq.) in THF (1 mL) was added and the resulting mixture was stirred at r.t. for 18 hours. The mixture was concentrated in vacuo. The residue was taken up in DCM and water was added. The layers were separated and the aq. phase was extracted with DCM (3×). The comb. org. layers were washed with sat. aq. NaCl soln., dried over MgSO4, filtered and concentrated in vacuo to give the title compound as a yellow oil. The product was used without further purification.

reactant | Sodium hydride | [H-].[Na+]
reactant | (3-bromo-4-hydroxy-phenyl)-acetic acid ethyl ester | 2.0 mmol, 564 mg, 1.0 eq. | C(C)OC(CC1=CC(=C(C=C1)O)Br)=O | C10H11BrO3
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | 4.4 mmol, 961 mg, 2.2 eq. | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
solvent | THF | 9.4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | [3-Bromo-4-(2,2-difluoro-ethoxy)-phenyl]acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OCC(F)F)Br)=O | C12H13BrF2O3
